Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: UROLOGY
 
Allergies: 
atorvastatin
 
Attending: ___.
 
Chief Complaint:
Left ureteral stone
 
Major Surgical or Invasive Procedure:
Left ureteral stent placement

 
History of Present Illness:
___ is a ___ male with nephrolithiasis. He has a 5x5 mm left
ureteral stone, in the mid ureter, Cr elevated to 1.8. Planned 
for left u-scope/LL but was febrile to 101.2F in preop holding. 
 
Past Medical History:
FATIGUE                                                         
HEALTH MAINTENANCE                                              
ERYTHROCYTOSIS                                                  
TINNITUS                                                        
NUMBNESS                                                        
SLEEP APNEA                                                     
RHINITIS                                                        
CORONARY ARTERY DISEASE
INGUINAL HERNIA                                                 
  on right, x two 
LAD stent in ___, on ASA and plavix
                                        
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
Afebrile, vital signs stable
No acute distress
Warm and well-perfused
Non-labored breathing
Abdomen soft, non-tender, non-distended
Urine pink tinged
 
Pertinent Results:
___ 10:00AM   UREA N-25* CREAT-1.8* SODIUM-142 
POTASSIUM-4.6 CHLORIDE-105 TOTAL CO2-27 ANION GAP-15
___ 10:00AM   CALCIUM-9.2
 
Brief Hospital Course:
The patient was admitted to Dr. ___ service from 
the ___ ED for overnight observation, pain control, and IV 
fluids. He failed to void post-operatively and required Foley 
catheter placement which was complicated by gross hematuria. He 
required continuous bladder irrigation which was titrated to 
clear. His hematuria resolved and his catheter was removed. He 
was then able to void without difficulty.  He was tolerating a 
regular diet.  He was given Toradol and Flomax to help stent 
pain and to facilitate passage of his stone.  At discharge, 
patient's pain well controlled with oral pain medications, 
tolerating regular diet, ambulating without assistance, and 
voiding without difficulty. He is given explicit instructions to 
call Dr. ___ follow-up.
 
Medications on Admission:
1. Acetaminophen 325-650 mg PO Q6H:PRN pain, fever>100 
2. Aspirin 325 mg PO DAILY 
3. Clopidogrel 75 mg PO DAILY
4. Nitroglycerin SL 0.4 mg SL PRN chest pain 
 
Discharge Medications:
1. Acetaminophen 325-650 mg PO Q6H:PRN pain, fever>100 
2. Aspirin 325 mg PO DAILY 
3. Clopidogrel 75 mg PO DAILY 
4. Docusate Sodium 100 mg PO BID 
5. Nitroglycerin SL 0.4 mg SL PRN chest pain 
6. Oxycodone-Acetaminophen (5mg-325mg) 1 TAB PO Q4H:PRN 
breakthrough pain only(score>4) 
7. Tamsulosin 0.4 mg PO HS 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Urolithiasis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-You can expect to see occasional blood in your urine and to 
possibly experience some urgency and frequency over the next 
month; this may be related to the passage of stone fragments or 
the indwelling ureteral stent.

-The kidney stone may or may not have been removed AND/or there 
may fragments/others still in the process of passing.

-You may experience some pain associated with spasm of your 
ureter. This is normal. Take the narcotic pain medication as 
prescribed if additional pain relief is needed. Flomax is also 
prescribed and will help with stent-related pain and stone 
passage

-Ureteral stents MUST be removed or exchanged and therefore it 
is IMPERATIVE that you follow-up as directed. 

-Do not lift anything heavier than a phone book (10 pounds) 

-You may continue to periodically see small amounts of blood in 
your urine--this is normal and will gradually improve

-Resume all of your pre-admission medications, except HOLD 
aspirin until you see your urologist in follow-up 

-You may have burning with urination. This is normal after 
cystoscopy and will self resolve

-Colace has been prescribed to avoid post surgical constipation 
and constipation related to narcotic pain medication. 
Discontinue if loose stool or diarrhea develops. Colace is a 
stool softener, NOT a laxative, and available over the counter. 
The generic name is DOCUSATE SODIUM. It is recommended that you 
use this medication.

-Do not eat constipating foods for ___ weeks, drink plenty of 
fluids to keep hydrated
 
Followup Instructions:
___